US07494996B2
4-Chlorothiobenzoyl methyl glycine (4.87 g, 20 mmol), 2.2 g of hydrazine hydrate (44 mmol) and 20 mL of methanol were combined and stirred at room temperature overnight, then heated to reflux. The reaction mixture was cooled and filtered. The solids were washed, then dried, giving 3-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-6-one.

reactant | 4-Chlorothiobenzoyl methyl glycine | 20 mmol, 4.87 g | ClC1=CC=C(C(=S)N(CC(=O)O)C)C=C1 | C10H10ClNO2S
reactant | hydrazine hydrate | 44 mmol, 2.2 g | O.NN
solvent | methanol | 20 mL | CO | CH4O
product | 3-(4-chlorophenyl)-4,5-dihydro-1,2,4-triazin-6-one | ClC1=CC=C(C=C1)C1=NNC(CN1)=O | C9H8ClN3O
